US06303790B1
To a solution of 8.0 g (32.3 mMol) 6-chloro-4-o-tolyl-nicotinic acid in 48.0 ml THF were added 3.1 ml (42.0 mMol) thionylchloride and 143 □l (1.8 mMol) DMF. After 2 hours at 50° C., the reaction mixture was cooled to room temperature and added to a solution of 72.5 ml aqueous ammonium hydroxide 25% and 96 ml water cooled to 0° C. After 30 minutes at 0° C., THF was removed under reduced pressure and the aqueous layer was extracted with ethyl acetate. Removal of the solvent yielded 7.8 g (98%) 6-chloro-4-o-tolyl-nicotinamide as a beige crystalline foam.

reactant | 6-chloro-4-o-tolyl-nicotinic acid | 32.3 mMol, 8.0 g | ClC1=NC=C(C(=O)O)C(=C1)C1=C(C=CC=C1)C | C13H10ClNO2
reactant | thionylchloride | 42.0 mMol, 3.1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ammonium hydroxide | 72.5 ml | [OH-].[NH4+]
reactant | water | 96 ml | O | H2O
solvent | THF | 48.0 ml | C1CCOC1 | C4H8O
catalyst | DMF | 1.8 mMol | CN(C)C=O | C3H7NO
product | 6-chloro-4-o-tolyl-nicotinamide | 7.8 g, 98% | ClC1=NC=C(C(=O)N)C(=C1)C1=C(C=CC=C1)C | C13H11ClN2O
